US08981104B2
1-(Bromomethyl)-4-[trans-4-(trifluoromethyl)cyclohexyl]benzene
Under argon, 2 g (7.74 mmol) of {4-[trans-4-(trifluoromethyl)cyclohexyl]phenyl}methanol [for the preparation, see patent application WO 2009/032249-A1, Example 8/Steps C-E] were dissolved in 40 ml of THF, and 2.437 g (9.29 mmol) of triphenylphosphine and 3.081 g (9.29 mmol) of carbon tetrabromide were added in succession. The reaction mixture was stirred at room temperature overnight. Subsequently, first water and then ethyl acetate were added. The organic phase was separated off and then dried over magnesium sulphate, filtered and concentrated to dryness. The residue obtained was purified chromatographically on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1). This gave 2.07 g (6.44 mmol, 83% of theory) of the target compound.

reactant | {4-[trans-4-(trifluoromethyl)cyclohexyl]phenyl}methanol | 7.74 mmol, 2 g | FC([C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CO)(F)F | C14H17F3O
reactant | triphenylphosphine | 9.29 mmol, 2.437 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 9.29 mmol, 3.081 g | C(Br)(Br)(Br)Br | CBr4
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Bromomethyl)-4-[trans-4-(trifluoromethyl)cyclohexyl]benzene | BrCC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(F)(F)F | C14H16BrF3
